US03956391
A mixture of 17.85 g (0.05 mole) of α-(2-dimethylaminomethyl-1,2,3,4-tetrahydronaphthalen-1-yl)-o-toluic acid hydrochloride and 150 g. polyphosphoric acid is heated at 110° for 5 hours allowed to cool and poured onto crushed ice with stirring. The resulting solution is cooled on ice and made basic by the addition of solid potassium hydroxide, and extracted with methylene chloride. The methylene chloride is washed with water, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue is dissolved in isopropanol and treated with gaseous hydrogen chloride. The resulting precipitate is filtered and recrystallized from isopropanol to give the intermediate 1,2,3,12a-tetrahydro-1-(dimethylaminomethyl)-7(12H)-pleiadenone hydrochloride m.p. 262.5°-263.0°C.

reactant | α-(2-dimethylaminomethyl-1,2,3,4-tetrahydronaphthalen-1-yl)-o-toluic acid hydrochloride | 0.05 mole, 17.85 g | Cl.CN(C)CC1C(C2=CC=CC=C2CC1)CC=1C(=CC=CC1)C(=O)O
reactant | potassium hydroxide | [OH-].[K+]
product | 1,2,3,12a-tetrahydro-1-(dimethylaminomethyl)-7(12H)-pleiadenone hydrochloride | Cl.CN(C)CC1CCC2=CC=CC=3C(C4=CC=CC=C4CC1C23)=O | InChI=1S/C21H23NO.ClH/c1-22(2)13-16-11-10-14-7-5-9-18-20(14)19(16)12-15-6-3-4-8-17(15)21(18)23;/h3-9,16,19H,10-13H2,1-2H3;1H
